US04278681
A suspension of 4 g (10.4 mM) of 6-[4-(N-acetyl-4-hydroxy-L-prolylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid, 4 ml (31 mM) of propionic anhydride, and 25 ml of pyridine was stirred at room temperature for 1 hr. The resulting solution was allowed to stand overnight at room temperature and methanol was added. The solid was filtered, washed, and dried to give 2.2 g of 6-[4-[N-acetyl-4-(1-oxopropoxy)-L-prolylamino]phenyl]-1,2-dihydro-2oxonicotinic acid. Another 2.0 g were obtained by evaporating the filtrate and treating the residue with water. The pH was adjusted to 2.5 with 1 N hydrochloric acid and cooled and the solid was filtered, washed with water and air dried.

reactant | 6-[4-(N-acetyl-4-hydroxy-L-prolylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 10.4 mM, 4 g | C(C)(=O)N1[C@H](C(=O)NC2=CC=C(C=C2)C=2NC(C(C(=O)O)=CC2)=O)CC(C1)O | C19H19N3O6
reactant | propionic anhydride | 31 mM, 4 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
product | 6-[4-[N-acetyl-4-(1-oxopropoxy)-L-prolylamino]phenyl]-1,2-dihydro-2oxonicotinic acid | 2.2 g | C(C)(=O)N1[C@H](C(=O)NC2=CC=C(C=C2)C=2NC(C(C(=O)O)=CC2)=O)CC(C1)OC(CC)=O | C22H23N3O7
